US06313126B1
8-(4-Benzyl-piperazin-1-yl)quinoline
A solution of 8-amino-quinoline (12.91 g, 89 mmol) and bis(2-chloroethyl)-benzylamine (25.95 g, 112 mmol) in n-butanol (65 ml) was allowed to heat at 85° C. for 11 hours. The mixture was poured into 50% sodium hydroxide, extracted with methylene chloride and water. The organic layer was dried over anhydrous magnesium sulfate, and filtered. The solvent was removed under vacuum. Chromatography (methanol-methylene chloride) afforded 12.34 g of product as a solid: mp 116.5-118° C.

reactant | 8-amino-quinoline | 89 mmol, 12.91 g | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | bis(2-chloroethyl)-benzylamine | 112 mmol, 25.95 g | ClCCN(CC1=CC=CC=C1)CCCl | C11H15Cl2N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | n-butanol | 65 ml | C(CCC)O | C4H10O
product | 8-(4-Benzyl-piperazin-1-yl)quinoline | 12.34 g | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=CC=C2C=CC=NC12 | C20H21N3
